US05198462
2-Bromomethylbenzophenone
A mixture of 2-methylbenzophenone (9.8 g), N-bromosuccinimide (8.9 g), benzoyl peroxide (0.5 g) and carbon tetrachloride (150 ml) was refluxed for 1 hour with light irradiation. The mixture was cooled, and then filtered to remove insoluble substances. The filtrate was concentrated to afford quantitatively the above-titled compound as an oily susbstance.

reactant | 2-methylbenzophenone | 9.8 g | CC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C14H12O
reactant | N-bromosuccinimide | 8.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.5 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 150 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Bromomethylbenzophenone | BrCC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C14H11BrO
